US05990151
To a solution of the crude methyl 3-[4-methoxy-3-(2-phenylethoxy)phenyl]-2-methoxycarbonylpropionate (7.45 g) in 75 ml of 1,2-dimethoxyethane, 0.80 g of 60% sodium hydride (oily) was added little by little at room temperature under stirring. The resultant solution was stirred further at 40° C. for 1.5 hours. To this solution, 2.66 g of 3-bromo-1-propene was added and stirred at room temperature for 1.5 days. The reaction solution was concentrated under reduced pressure and the residue was dissolved in ethyl acetate. This solution was washed with water, a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of NaCl in consecutive order and dried over anhydrous magnesium sulfate. The drying agent was separated by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4:1) to obtain 7.76 g of methyl 3-[4-methoxy-3-(2-phenylethoxy) phenyl]-2-methoxycarbonyl-2-(2-propen-1-yl)propionate.

reactant | methyl 3-[4-methoxy-3-(2-phenylethoxy)phenyl]-2-methoxycarbonylpropionate | 7.45 g | COC1=C(C=C(C=C1)CC(C(=O)OC)C(=O)OC)OCCC1=CC=CC=C1 | C21H24O6
reactant | sodium hydride | 0.80 g | [H-].[Na+]
reactant | 3-bromo-1-propene | 2.66 g | BrCC=C | C3H5Br
solvent | 1,2-dimethoxyethane | 75 ml | COCCOC | C4H10O2
product | methyl 3-[4-methoxy-3-(2-phenylethoxy) phenyl]-2-methoxycarbonyl-2-(2-propen-1-yl)propionate | 7.76 g | COC1=C(C=C(C=C1)CC(C(=O)OC)(CC=C)C(=O)OC)OCCC1=CC=CC=C1 | C24H28O6
